US06797820B2
To methyl 3-(R)-n-butyl-3-[2-(S)-tert-butoxycarbonylpyrrolidin-1-ylcarbonyl)-2-(R)-hydroxypropionate H-3 (8.7 mmol) in DCM (10 mL) was added pyridine (25 mmol), the reaction was cooled to −20° C., then triflic anhydride (12.5 mmol) was added. The solution was stirred for 1 hour, then worked up as described above. The intermediate triflate was resuspended in DCM and cooled to −50° C. Tris(dimethylamino)sulfur (trimethylsilyl)difluoride (TAS-F) was added (8.7 mmol) and the solution allowed to warm to rt. The reaction mixture was washed with aqueous sodium bicarbonate and brine, dried (Na2SO4) and concentrated, then purified on silica gel (ethylacetate/hexanes) to afford 4.3 mmol (50%) of methyl 3-(S)-n-butyl-3-[2-(S)-tert-butoxycarbonylpyrrolidin-1-yl-carbonyl)-2-(S)-fluoropropionate H-4.

reactant | methyl 3-(R)-n-butyl-3-[2-(S)-tert-butoxycarbonylpyrrolidin-1-ylcarbonyl)-2-(R)-hydroxypropionate | 8.7 mmol | C(CCC)[C@H]([C@H](C(=O)OC)O)C(=O)N1[C@@H](CCC1)C(=O)OC(C)(C)C | C18H31NO6
reactant | pyridine | 25 mmol | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 12.5 mmol | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | triflate | [O-]S(=O)(=O)C(F)(F)F
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | methyl 3-(S)-n-butyl-3-[2-(S)-tert-butoxycarbonylpyrrolidin-1-yl-carbonyl)-2-(S)-fluoropropionate | 4.3 mmol, 50% | C(CCC)[C@H]([C@@H](C(=O)OC)F)C(=O)N1[C@@H](CCC1)C(=O)OC(C)(C)C | C18H30FNO5
